US08623889B2
To a solution of 2-chloro-2-fluorocyclopropanecarboxylic acid (112 g, 809 mmol) in THF (2.0 L) was added 1,1′-carbonyldiimidazole (170 g, 1.05 mmol). The reaction mixture was stirred at room temperature for 1 hour and then (R)-(+)-1-phenylethylamine (117.5 g, 971 mmol) was added. The reaction mixture was stirred at room temperature overnight. The solvent was evaporated in vacuo and the residue was extracted with ethyl acetate. The organic extract was washed with 2N aqueous HCl, brine, dried over Na2SO4, filtered and concentrated. The crude product was purified via flash chromatography on silica gel (solvent gradient: 15-33% ethyl acetate in petroleum ether) to yield 2-chloro-2-fluoro-N—((R)-1-phenylethyl)cyclopropanecarboxamide as a white solid (149 g, 50% yield over three steps).

reactant | 2-chloro-2-fluorocyclopropanecarboxylic acid | 809 mmol, 112 g | ClC1(C(C1)C(=O)O)F | C4H4ClFO2
reactant | 1,1′-carbonyldiimidazole | 1.05 mmol, 170 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (R)-(+)-1-phenylethylamine | 971 mmol, 117.5 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | THF | 2.0 L | C1CCOC1 | C4H8O
product | 2-chloro-2-fluoro-N—((R)-1-phenylethyl)cyclopropanecarboxamide | 50% yield | ClC1(C(C1)C(=O)N[C@H](C)C1=CC=CC=C1)F | C12H13ClFNO
